US06683096B2
C. Preparation of 1-cyclopropylmethyl-3-piperidin-4-yl-1H-indole
A solution of 4.95 g (75 mmol) of potassium hydroxide in 25 mL of iso-propanol was added to 4.7 g (15 mmol) of 4-(1-cyclopropylmethyl-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester and the mixture was heated at 95-100° C. for 16 hours. The solvent was removed under reduced pressure and the crude mixture was extracted between water and toluene. The organic layer was dried over sodium sulfate and after filtration the solvent was removed under reduced pressure affording 3.2 g (89% of yield) of the desired product.

reactant | potassium hydroxide | 75 mmol, 4.95 g | [OH-].[K+]
reactant | 4-(1-cyclopropylmethyl-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 15 mmol, 4.7 g | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CC1CC1 | C20H26N2O2
solvent | iso-propanol | 25 mL | C(C)(C)O | C3H8O
product | 1-cyclopropylmethyl-3-piperidin-4-yl-1H-indole | C1(CC1)CN1C=C(C2=CC=CC=C12)C1CCNCC1 | C17H22N2
